US09079866B2
Step A: (R)-2-((1-(Benzyloxy)propan-2-yl)oxy)-3-bromopyridine
To a stirred solution of (R)-1-(benzyloxy)propan-2-ol (2.0 g, 12 mmol) in dry DMF (5 mL) was added NaH (1.5 g, 36 mmol) at 0 Celsius. The reaction mixture was then stirred for 30 min before adding 3-bromo-2-chloropyridine (2.3 g, 12 mmol) and stirring continued for another 4 h. The reaction was quenched by slow addition of water (10 mL) and the resultant mixture extracted with ethyl acetate (3×10 mL). The combined organic extracts were dried over Na2SO4, filtered, concentrated to dryness, and the crude product purified by FCC to provide the title compound.

reactant | (R)-1-(benzyloxy)propan-2-ol | 12 mmol, 2.0 g | C(C1=CC=CC=C1)OC[C@@H](C)O | C10H14O2
reactant | NaH | 36 mmol, 1.5 g | [H-].[Na+]
reactant | 3-bromo-2-chloropyridine | 12 mmol, 2.3 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-2-((1-(Benzyloxy)propan-2-yl)oxy)-3-bromopyridine | C(C1=CC=CC=C1)OC[C@@H](C)OC1=NC=CC=C1Br | C15H16BrNO2
